US05602013
A 2.3-L Parr shaker bottle is charged with 1L of 3A ethanol and 83g (1.1 mol) of n-butylamine. The mixture is stirred and cooled while 16 mL of 12N hydrochloric acid is slowly added. The pH after this addition is 10. To the 2.3-L Parr bottle is added 200g (1.1 mol) of n-glucose followed by 60 g of 4% palladium-on-carbon (50% water-wet). The mixture is agitated rapidly and hydrogenated at a constant pressure of 4 arm of hydrogen at 60°±5° C. until the reaction is complete (as indicated by hydrogen uptake). The hydrogen is vented and the 4% palladium-on-carbon is removed by filtration through a layer of powdered cellulose. The catalyst is washed with 100 mL of 3A ethanol followed by 50 mL of water. The wash is combined with the filtrate to give a solution containing a mixture of N-butyl glucamine and the corresponding hydrochloride salt. The mixture is stirred and cooled while 80 mL of 12N hydrochloric acid is slowly added. The pH after this addition is 2.5. The ethanol is removed by distillation under reduced pressure. The residue contains approximately 270 g of N-n-butyl glucamine hydrochloride. The residue is diluted to 500 mL with water to produce a bulk solution of N-n-butyl glucamine hydrochloride which is used in the next step without purification.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | hydrochloric acid | 12N, 16 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | N-butyl glucamine | C(CCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C10H23NO5
reactant | hydrochloric acid | 12N, 80 mL | Cl | ClH
catalyst | palladium-on-carbon | 60 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | N-n-butyl glucamine hydrochloride | Cl.C(CCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C10H23NO5.ClH/c1-2-3-4-11-5-7(13)9(15)10(16)8(14)6-12;/h7-16H,2-6H2,1H3;1H/t7-,8+,9+,10+;/m0./s1
